US06180627B2
tert-Butyl (1R/S)-1-[3-(2-aminoethyl)phenyl]-2-methoxyethylcarbamate
A mixture of benzyl 3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethylcarbamate (preparation 120) (289 mg, 0.68 mmol) and 10% palladium on charcoal (30 mg) in methanol (10 ml) was hydrogenated at 15 psi and room temperature for 16 hrs. The reaction mixture was filtered through Arbocel®, and the filtrate evaporated under reduced pressure to give the title compound, (196 mg, 98%).

reactant | benzyl 3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethylcarbamate | 0.68 mmol, 289 mg | C(C)(C)(C)OC(=O)NC(COC)C=1C=C(CCNC(OCC2=CC=CC=C2)=O)C=CC1 | C24H32N2O5
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | tert-Butyl (1R/S)-1-[3-(2-aminoethyl)phenyl]-2-methoxyethylcarbamate | 196 mg, 98% | NCCC=1C=C(C=CC1)C(COC)NC(OC(C)(C)C)=O | C16H26N2O3
